US05589473
A mixture of 35 mg of (4R,7R)-11,13-bis-(tert-butyl-dimethyl-silanyloxy)-7,10-dimethyl-6,9-dioxo-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacyclo-undecine-4-carboxylic acid methyl ester and 20 mg ammonium fluoride in 2 ml of methanol was stirred at room temperature for 1 h. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel using ethyl acetate as eluent. The pure product was crystallized from dichloromethane to give 13 mg of (4R,7R)-11,13-dihydroxy-7,10-dimethyl-6,9-dioxo-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-4-carboxylic acid methyl ester as white crystals, m.p. 216°-218° C. (dec.).

reactant | (4R,7R)-11,13-bis-(tert-butyl-dimethyl-silanyloxy)-7,10-dimethyl-6,9-dioxo-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacyclo-undecine-4-carboxylic acid methyl ester | 35 mg | COC(=O)[C@@H]1NC([C@H](SC(C2=C(COC1)C(=CC(=C2C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O)C)=O | C28H47NO7SSi2
reactant | ammonium fluoride | 20 mg | [F-].[NH4+]
solvent | methanol | 2 ml | CO | CH4O
product | (4R,7R)-11,13-dihydroxy-7,10-dimethyl-6,9-dioxo-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-4-carboxylic acid methyl ester | 13 mg | COC(=O)[C@@H]1NC([C@H](SC(C2=C(COC1)C(=CC(=C2C)O)O)=O)C)=O | C16H19NO7S
